US06372736B1
(2S)-N2-(1-diphenylmethyl-3-azetidinyl)-1-(1,3-benzoxazol-2-yl)-2-piperidinercarboxamide
The title compound was prepared by a similar method to Example 1 from (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid [see Preparation 3] and 1-benzhydryl-3-azetanamine [see J. Med. Chem. (1977), 21(1), 78-82]. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 80:20 changing to 60:40, then 50:50, by volume, hexane:ethyl acetate to afford (2S)-N2-(1-diphenylmethyl-3-azetidinyl)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxamide as a white foam.

reactant | (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O3
reactant | 1-benzhydryl-3-azetanamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N | C16H18N2
product | (2S)-N2-(1-diphenylmethyl-3-azetidinyl)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxamide | C1(=CC=CC=C1)C(N1CC(C1)NC(=O)[C@H]1N(CCCC1)C=1OC2=C(N1)C=CC=C2)C2=CC=CC=C2 | C29H30N4O2
